US07053088B2
(c) 4-[6-(Quinolin-7-ylamino)-pyrimidin-4-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
This compound could be prepared from (6-iodo-pyrimidin-4-yl)-quinolin-7-yl-amine and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester via Suzuki coupling reaction.

reactant | (6-iodo-pyrimidin-4-yl)-quinolin-7-yl-amine | IC1=CC(=NC=N1)NC1=CC=C2C=CC=NC2=C1 | C13H9IN4
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
product | 4-[6-(Quinolin-7-ylamino)-pyrimidin-4-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC=NC(=C1)NC1=CC=C2C=CC=NC2=C1 | C23H25N5O2
